US06251057B1
In the same apparatus and procedure as Example 1 above, 0.115 g (0.62 mmol) of tri-n-butylamine, 1.0 g (6.2 mmol) of (chloromethyl)methyldichlorosilane, and 4.18 g (30.9 mmol) of trichlorosilane were reacted at 200° C. for 11 hrs. The resulting mixture was distilled to give 0.50 g of 1,1,1,3,3-pentachloro-1,3-disilabutane (yield; 6%).

reactant | tri-n-butylamine | 0.62 mmol, 0.115 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | (chloromethyl)methyldichlorosilane | 6.2 mmol, 1.0 g | ClC[Si](Cl)(Cl)C | C2H5Cl3Si
reactant | trichlorosilane | 30.9 mmol, 4.18 g | Cl[SiH](Cl)Cl | Cl3HSi
product | 1,1,1,3,3-pentachloro-1,3-disilabutane | 0.50 g, yield; 6% | Cl[Si](C[Si](C)(Cl)Cl)(Cl)Cl | C2H5Cl5Si2
